US09447091B2
f) N-(5-(4-bromo-2-nitrophenylamino)-2′,4′-difluorobiphenyl-3-yl)acetamide
A solution of N-(5-amino-2′,4′-difluorobiphenyl-3-yl)acetamide (3.0 g, 11.44 mmol), 4-bromo-1-fluoro-2-nitrobenzene (2.52 g, 11.44 mmol, 1.0 eq.) and potassium fluoride (0.663 g, 11.44 mmol, 1.0 eq.) in DMF was heated at 130° C. for 5 h. The mixture was quenched and extracted as in Example 1(d). The solvent was distilled off under reduced pressure and the crude residue was purified by column chromatography (60-120 silica gel, 40% ethyl acetate in hexane) to afford the product in 45% yield (2.4 g).

reactant | N-(5-amino-2′,4′-difluorobiphenyl-3-yl)acetamide | 11.44 mmol, 3.0 g | NC=1C=C(C=C(C1)C1=C(C=C(C=C1)F)F)NC(C)=O | C14H12F2N2O
reactant | 4-bromo-1-fluoro-2-nitrobenzene | 11.44 mmol, 2.52 g, 1.0 eq. | BrC1=CC(=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | potassium fluoride | 11.44 mmol, 0.663 g, 1.0 eq. | [F-].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(5-(4-bromo-2-nitrophenylamino)-2′,4′-difluorobiphenyl-3-yl)acetamide | 45% yield | BrC1=CC(=C(C=C1)NC=1C=C(C=C(C1)C1=C(C=C(C=C1)F)F)NC(C)=O)[N+](=O)[O-] | C20H14BrF2N3O3
